US07498337B2
5-(2-bromophenyl)-1H-pyrrole-3-carbaldehyde
By a similar operation as in Reference Example 148 and using 5-bromo-1H-pyrrole-3-carbaldehyde (870 mg), (2-bromophenyl)boronic acid (1.20 g), sodium carbonate (1.27 g) and tetrakis(triphenylphosphine)palladium (289 mg), the title compound was obtained as colorless crystals (yield 396 mg, 32%).

reactant | 5-bromo-1H-pyrrole-3-carbaldehyde | 870 mg | BrC1=CC(=CN1)C=O | C5H4BrNO
reactant | (2-bromophenyl)boronic acid | 1.20 g | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
reactant | sodium carbonate | 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 289 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-bromophenyl)-1H-pyrrole-3-carbaldehyde | BrC1=C(C=CC=C1)C1=CC(=CN1)C=O | C11H8BrNO
